US07405210B2
Preparation 32: 1H-Pyrrolo[3,2-b]pyridine-2-carboxylic acid
A suspension of 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid ethyl ester (Preparation 31, 0.34 g, 1.77 mmol) in aqueous sodium hydroxide solution (2M, 10 mL) was heated under reflux for 3 h and the resulting solution was allowed to cool to rt. The pH was adjusted to 4 by addition of glacial acetic acid. Excess acetic acid was removed in vacuo and the resulting suspension cooled to 0° C. and then left standing at rt for 16 h. The resulting beige precipitate was collected by filtration and dried to give the title compound as a beige solid. δH (d6 DMSO): 7.12 (1H, s), 7.23 (1H, dd), 7.79 (1H, d), 8.42 (1H, dd).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid ethyl ester | 1.77 mmol, 0.34 g | C(C)OC(=O)C1=CC2=NC=CC=C2N1 | C10H10N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 2M, 10 mL | [OH-].[Na+]
product | 1H-Pyrrolo[3,2-b]pyridine-2-carboxylic acid | N1C(=CC2=NC=CC=C21)C(=O)O | C8H6N2O2
